US08097636B2
6,7-dichloro-1,2,3,4-tetrahydroisoquinoline HCl salt (550 mg, 2.31 mmol) was dissolved in water (5 mL) and DCM (20 mL). Aqueous saturated NaHCO3 (10 mL) was added and the organic phase was separated. The aqueous phase was extracted twice with DCM (20 mL), the organic phases were combined, dried (Na2SO4), and filtered to give 6,7-dichloro-1,2,3,4-tetrahydro-isoquinoline (470 mg, quant.).

reactant | 6,7-dichloro-1,2,3,4-tetrahydroisoquinoline HCl salt | 2.31 mmol, 550 mg | Cl.ClC=1C=C2CCNCC2=CC1Cl
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | water | 5 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 6,7-dichloro-1,2,3,4-tetrahydro-isoquinoline | 470 mg | ClC=1C=C2CCNCC2=CC1Cl | C9H9Cl2N
